US05344843
Propargylamine (0.80 mL) and triethylamine (1.67 mL) were added simultaneously to a solution of 2-naphthoyl chloride (2.22 g) in dichloromethane (25 mL) cooled in an ice bath. The mixture was held at 0° C. for 1 hour and allowed to warm to room temperature over 3 hours. The solution was diluted with ethyl acetate, washed in turn with water, 1N hydrochloric acid, 1N sodium hydroxide, and saturated brine. Evaporation of the dried (K2CO3) organic layer gave a residue which was crystallized from dichloromethanehexane to give 2.06 g of N-(2-propynyl)-2-naphthalenecarboxamide, mp 163°-165° C.

reactant | Propargylamine | 0.80 mL | C(C#C)N | C3H5N
reactant | triethylamine | 1.67 mL | C(C)N(CC)CC | C6H15N
reactant | 2-naphthoyl chloride | 2.22 g | C1=C(C=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(2-propynyl)-2-naphthalenecarboxamide | 2.06 g | C(C#C)NC(=O)C1=CC2=CC=CC=C2C=C1 | C14H11NO
